US09085581B2
Preparation of (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid ethylenediamine salt hydrate
(R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (15 mg) was dissolved in THF (0.5 mL) and aqueous ethylenediamine (16 uL, 2.27 M) was added. The homogeneous solution was left to stir at room temperature for 2d. ACN (300 μL) was then added and the reaction was stirred at room temperature for one additional day. The reaction mixture was evaporated to dryness and 0.5 mL of EtOAc was added. After stiffing for 24 h at room temperature, a solid had formed which was collected by filtration. The PXRD pattern of the title compound is shown in FIG. 10; and the DSC and TGA are shown in FIG. 11.

reactant | (R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 15 mg | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | C24H23ClF3NO4
reactant | ethylenediamine | 2.27 M, 16 uL | C(CN)N | C2H8N2
reactant | ACN | 300 μL | C(C)#N | C2H3N
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid ethylenediamine salt hydrate | O.C(CN)N.ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | InChI=1S/C24H23ClF3NO4.C2H8N2.H2O/c1-13(2)33-20-6-3-14(9-18(20)24(26,27)28)12-32-16-4-5-19-17(11-16)22(25)23-15(10-21(30)31)7-8-29(19)23;3-1-2-4;/h3-6,9,11,13,15H,7-8,10,12H2,1-2H3,(H,30,31);1-4H2;1H2/t15-;;/m1../s1
